US07666864B2
N-{3-[4′-(2-Allyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazol-2-yl)-2-fluoro-biphenyl-4-yl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The title compound was synthesized according to the reaction scheme shown in FIG. 21. To a mixture of 2-Allyl-2-(4-bromo-phenyl)-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazole (80 mg, 0.229 mmol), N-{3-[3-Fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (104 mg, 0.274 mmol), Pd(PPh3)4 (53 mg, 0.046 mmol) and K2CO3 (240 mg, 0.458 mmol) was added anhydrous DMF/H2O (4 mL/0.4 mL, 4.4 mL total) under N2. The reaction mixture was stirred for 2 h at 80° C., cooled to rt, quenched with water, diluted with EtOAc, washed with brine and water. The organic layers were separated, dried (MgSO4) and concentrated. Column chromatography provided 63 mg of yellow solid. 1H NMR (400 MHz, DMSO-d) δ 8.26 (t, J=5.8 Hz, 1H), 7.60 (m, 2H), 7.41 (m, 2H), 5.61 (m, 1H), 5.16 (m, 2H), 4.74 (m, 1H), 4.65 (d, J=11.2 Hz, 1H), 4.48 (d, J=11.2 Hz, 1H), 4.15 (d, J=9.0 Hz, 1H), 3.76 (m, 1H), 3.41 (d, J=1.3 Hz, 2H), 3.02 (m, 2H); ESI MS m/z 522 (M+H+)

reactant | 2-Allyl-2-(4-bromo-phenyl)-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazole | 0.229 mmol, 80 mg | C(C=C)C1(CN2C(O1)=NC(=C2)[N+](=O)[O-])C2=CC=C(C=C2)Br | C14H12BrN3O3
reactant | N-{3-[3-Fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 0.274 mmol, 104 mg | FC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)N1C(OC(C1)CNC(C)=O)=O | C18H24BFN2O5
reactant | K2CO3 | 0.458 mmol, 240 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.046 mmol, 53 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF H2O | 4 mL | CN(C)C=O.O
product | N-{3-[4′-(2-Allyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazol-2-yl)-2-fluoro-biphenyl-4-yl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | C(C=C)C1(CN2C(O1)=NC(=C2)[N+](=O)[O-])C2=CC=C(C=C2)C2=C(C=C(C=C2)N2C(OC(C2)CNC(C)=O)=O)F | C26H24FN5O6
